US07820680B2
Step 5: 1-(4-fluorobenzyl)-4-(1H-imidazol-1-ylcarbonyl)piperazin-2-one
To a solution of 1-(4-fluorobenzyl)piperazin-2-one (2.17 grams, 10.4 mmol) in 50 ml MeCN was added 1,1′-carbonyldiimidazole (2.03 g, 12.5 mmol) and dimethylaminopyridine (64 mg, 0.52 mmol). The solution was stirred at room temperature for 1 hour, concentrated under vacuum, and then dissolved in a mixture of CH2Cl2/CHCl3. The organic solution was washed with water three times, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was triturated with diethyl ether, and filtered to provide the title product as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.91 (s, 1H), 7.27 (t, J=6.9 Hz, 2H), 7.21 (t, J=1.4 Hz, 1H), 7.13 (s, 1H), 7.05 (t, J=8.6 Hz, 2H), 4.60 (s, 2H), 4.34 (s, 2H), 3.80 (t, J=5.4 Hz, 2H), 3.40 (t, J=5.4 Hz, 2H); ES MS (M+1)=303.

reactant | 1-(4-fluorobenzyl)piperazin-2-one | 10.4 mmol, 2.17 grams | FC1=CC=C(CN2C(CNCC2)=O)C=C1 | C11H13FN2O
reactant | 1,1′-carbonyldiimidazole | 12.5 mmol, 2.03 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylaminopyridine | 0.52 mmol, 64 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | MeCN | 50 ml | CC#N | C2H3N
product | 1-(4-fluorobenzyl)-4-(1H-imidazol-1-ylcarbonyl)piperazin-2-one | FC1=CC=C(CN2C(CN(CC2)C(=O)N2C=NC=C2)=O)C=C1 | C15H15FN4O2
